US06262161B1
PREPARATION OF THE ETHYLENE/STYRENE INTERPOLYMERS (ESI's) 1-17
1,2,3,5-Tetrahydro-7-phenyl-s-indacene, dilithium salt (12.2075 g, 0.05102 moles) in THF (50 mL) was added dropwise to a solution of Me2SiCl2 (19.5010 g, 0.1511 moles) in THF (100 mL) at 0° C. This mixture was then allowed to stir at room temperature overnight. After the reaction period the volatiles were removed and the residue extracted and filtered using hexane. The removal of the hexane resulted in the isolation of the desired product as a yellow oil (15.1492 g, 91.1% yield).

reactant | 1,2,3,5-Tetrahydro-7-phenyl-s-indacene | C1(=CC=CC=C1)C1=CCC=2C=C3CCCC3=CC12 | C18H16
reactant | dilithium | 0.05102 moles, 12.2075 g | [Li][Li] | 2Li
reactant | Me2SiCl2 | 0.1511 moles, 19.5010 g | [Si](Cl)(Cl)(C)C | C2H6Cl2Si
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | ETHYLENE/STYRENE | 15.1492 g, 91.1% yield | C=C.C=CC1=CC=CC=C1 | InChI=1S/C8H8.C2H4/c1-2-8-6-4-3-5-7-8;1-2/h2-7H,1H2;1-2H2
